US06207830B1
Preparation of 2-chloro-5-(3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1-(2H)Pyrimidinyl)-benzoic acid 1-allyloxycarbonyl-1-methyl-ethyl-ester
2.9 g of potassium tert.butylate (content 97%, 0.025 mols) are suspended in 169 g of dry acetonitrile (water content <0.01%) and cooled to 0-5° C. Subsequently, at 0-5° C., 36.2 g of 3-methylamino-4,4,4-trifluorobut-2-enoic acid isopropylester (content 98.3%, 0.17 mols) are added and maintained at this temperature for 30 minutes, whereby a red-brown solution is produced. Then, over the course of 15 minutes, at 0-5° C., 27.3 g of 5-isocyanato-2-chloro-benzoic acid 1-allyloxycarbonyl-1-methyl-ethyl-ester (content 99%, 0.084 mols) are dispensed in, whereby a dark brown solution is obtained. The latter is adjusted to pH 7 with 3.0 g of 1 N hydrochloric acid [content of desired product in the solution is 15.5%, which corresponds to a yield of 91.2%]. The solvent is subsequently distilled off in a vacuum, and the residue (68 g) is recrystallised in 200 g of isopropyl alcohol, whereby the inorganic salts are removed by hot filtration. After drying in a vacuum drying chamber at 60° C. for 12 hours, 32.8 g (82% of theory) of the desired product are isolated in a content of 98.7%.

reactant | 3-methylamino-4,4,4-trifluorobut-2-enoic acid isopropylester | 0.17 mols, 36.2 g | C(C)(C)OC(C=C(C(F)(F)F)NC)=O | C8H12F3NO2
reactant | 5-isocyanato-2-chloro-benzoic acid 1-allyloxycarbonyl-1-methyl-ethyl-ester | 0.084 mols, 27.3 g | C(C=C)OC(=O)C(C)(C)OC(C1=C(C=CC(=C1)N=C=O)Cl)=O | C15H14ClNO5
reactant | hydrochloric acid | 1 N, 3.0 g | Cl | ClH
solvent | acetonitrile | 169 g | C(C)#N | C2H3N
product | 2-chloro-5-(3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1-(2H)Pyrimidinyl)-benzoic acid 1-allyloxycarbonyl-1-methyl-ethyl-ester | yield of 91.2% | C(C=C)OC(=O)C(C)(C)OC(C1=C(C=CC(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)Cl)=O | C20H18ClF3N2O6
